US09169245B2
Step 1: Synthesis of (2S)-1-(4-formylphenyl)sulfonylpyrrolidine-2-carboxylic acid (Intermediate 19)
To a vigorously stirred solution of 4-formylbenzenesulfonyl chloride (1 g, 5 mmol) in DCM (10 mL), was added saturated aqueous sodium bicarbonate solution (10 mL), followed by tert-butyl(2S)-pyrrolidine-2-carboxylate (856 mg, 5 mmol). The organic phase was passed through a hydrophobic frit, and the solvent was removed in vacuo. The crude material was purified by silica gel column chromatography, eluting with 0-100% EtOAc in isohexane, to afford the title compound as a colourless gum (849 mg, 60%).

reactant | 4-formylbenzenesulfonyl chloride | 5 mmol, 1 g | C(=O)C1=CC=C(C=C1)S(=O)(=O)Cl | C7H5ClO3S
reactant | sodium bicarbonate | 10 mL | C([O-])(O)=O.[Na+]
reactant | tert-butyl(2S)-pyrrolidine-2-carboxylate | 5 mmol, 856 mg | N1[C@@H](CCC1)C(=O)OC(C)(C)C | C9H17NO2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | (2S)-1-(4-formylphenyl)sulfonylpyrrolidine-2-carboxylic acid | 849 mg, 60% | C(=O)C1=CC=C(C=C1)S(=O)(=O)N1[C@@H](CCC1)C(=O)O | C12H13NO5S
